US07863310B2
1-Isobutyl-2-amino-6-(methyliminomethyl)-1H-benzimidazole
Add methylamine (3.0 mL, 6 mmol, 2M in tetrahydrofuran) to a solution 1-isobutyl-2-amino-6-formylbenzimidazole (475 mg, 2.19 mmol) in dimethylformamide (5 mL). Stir at room temperature for 18 hours. Concentrate under reduced pressure to provide the title compound (503 mg).

reactant | methylamine | 6 mmol, 2M, 3.0 mL | CN | CH5N
reactant | 1-isobutyl-2-amino-6-formylbenzimidazole | 2.19 mmol, 475 mg | C(C(C)C)N1C(=NC2=C1C=C(C=C2)C=O)N | C12H15N3O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-Isobutyl-2-amino-6-(methyliminomethyl)-1H-benzimidazole | 503 mg | C(C(C)C)N1C(=NC2=C1C=C(C=C2)C=NC)N | C13H18N4
